US06780563B2
A flask was charged with 14.6 g of magnesium and 120 ml of THF, to which a solution of 67.5 g of chloromethyltrimethylsilane diluted with 70 ml of THF was added dropwise at 50° C. The addition was followed by one hour of stirring at 65° C., after which 42.1 g of cyclopentanone was added dropwise below 20° C. After one hour of stirring at room temperature, an aqueous solution of ammonium chloride was added for hydrolysis. This was followed by ordinary post-treatments. Upon vacuum distillation, there was obtained 70.6 g (yield 82%) of 1-trimethylsilylmethylcyclopentanol.

reactant | magnesium | 14.6 g | [Mg] | Mg
reactant | chloromethyltrimethylsilane | 67.5 g | ClC[Si](C)(C)C | C4H11ClSi
reactant | cyclopentanone | 42.1 g | C1(CCCC1)=O | C5H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 1-trimethylsilylmethylcyclopentanol | 70.6 g, yield 82% | C[Si](C)(C)CC1(CCCC1)O | C9H20OSi
